US09422292B2
6-(4-chlorophenyl)-1,5,5-trimethyl-5,6-dihydro-4H-benzo[b][1,2,4]triazolo[4,3-d][1,4]diazepine (Compound 22)
A disposable tube was charged with 1,5,5-trimethyl-5,6-dihydro-4H-benzo[b][1,2,4]triazolo[4,3-d][1,4]diazepine (150 mg, 0.657 mmol), 1-chloro-4-iodobenzene (204 mg, 0.854 mmol), RuPhos precat. (23.94 mg, 0.033 mmol), sodium 2-methylpropan-2-olate (126 mg, 1.314 mmol), and a stirbar before being evacuated and purged with nitrogen three times. Toluene (3 mL, 0.5 M) was added, and the mixture was stirred at 90° C. 48 h. The mixture was cooled, diluted with ethyl acetate, filtered, and purified by reverse phase HPLC to yield the title compound as an off-white amorphous solid.

reactant | 1,5,5-trimethyl-5,6-dihydro-4H-benzo[b][1,2,4]triazolo[4,3-d][1,4]diazepine | 0.657 mmol, 150 mg | CC1=NN=C2N1C1=C(NC(C2)(C)C)C=CC=C1 | C13H16N4
reactant | 1-chloro-4-iodobenzene | 0.854 mmol, 204 mg | ClC1=CC=C(C=C1)I | C6H4ClI
reactant | RuPhos | CC(C)OC1=C(C(=CC=C1)OC(C)C)C2=CC=CC=C2P(C3CCCCC3)C4CCCCC4 | C30H43O2P
reactant | sodium 2-methylpropan-2-olate | 1.314 mmol, 126 mg | CC(C)(C)[O-].[Na+]
product | 6-(4-chlorophenyl)-1,5,5-trimethyl-5,6-dihydro-4H-benzo[b][1,2,4]triazolo[4,3-d][1,4]diazepine | ClC1=CC=C(C=C1)N1C2=C(N3C(CC1(C)C)=NN=C3C)C=CC=C2 | C19H19ClN4
